US07268159B2
Synthesis of 1-(4-anilinobenzyl)-3-phenyl-1H-indole-2-carboxylic acid
Phenylboronic acid (0.16 g, 0.81 mmol), Cu(OAc)2 (0.049 g, 0.27 mmol), and myristic acid (0.037 g, 0.16 mmol) were combined in a 100-mL round-bottom flask with a large stir bar. A rubber septum was attached, and dry toluene (2 mL), 2,6-lutidine (0.066 mL, 0.57 mmol), and 1-(4-amino-benzyl)-3-phenyl-1H-indole indolecarboxylic acid ethyl ester (0.20 g, 0.54 mmol) were successively added. The resulting mixture was stirred at a high rate for 24 h, diluted with ethyl acetate (10 mL), filtered through a plug of silica gel, and then purified by column chromatography (5 to 25% EtOAc/hexanes) to give a gummy solid. To a stirred solution of the gummy solid in 15 mL of 2:1:1 THF/MeOH/water was added lithium hydroxide monohydrate (0.1 g, 2.4 mmol). The reaction was stirred at 40° C. for 5 h. Most of the organic solvents was removed and the reaction mixture was made acidic (pH 6) with glacial acetic acid, and the solid was collected and purified by HPLC as a white powder (0.023 g, 10%): 1H NMR (DMSO-d6) δ 5.64 (s, 2H), 6.77 (t, J=7.4 Hz, 1H), 6.96 (d, J=8.5 Hz, 2H), 7.00 (dd, J=7.6, 0.9 Hz, 2H), 7.04(t, J=7.1 Hz, 1H), 7.15-7.19(m, 4H), 7.25 (t, J=7.11 Hz, 1H), 7.39 (t, J=7.4 Hz, 2H), 7.46-7.53 (m, 1H), 7.53 (t, J=7.4 Hz, 2H), 7.54-7.56 (m, 2H), 8.08 (br s, 1H), 13.01 (br s, 1H); MS (ESI) m/z 419 (MH+); MS (ESI) m/z 417 ([M−H]−); HRMS calcd for C28H23N2O2: 419.1757; found (ESI+): 419.1755.

reactant | Phenylboronic acid | 0.81 mmol, 0.16 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | myristic acid | 0.16 mmol, 0.037 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | 2,6-lutidine | 0.57 mmol, 0.066 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 1-(4-amino-benzyl)-3-phenyl-1H-indole indolecarboxylic acid ethyl ester | 0.54 mmol, 0.20 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1.NC1=CC=C(CN2C=C(C3=CC=CC=C23)C2=CC=CC=C2)C=C1
reactant | lithium hydroxide monohydrate | 2.4 mmol, 0.1 g | O.[OH-].[Li+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | THF MeOH water | 15 mL | C1CCOC1.CO.O
catalyst | Cu(OAc)2 | 0.27 mmol, 0.049 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-anilinobenzyl)-3-phenyl-1H-indole-2-carboxylic acid | N(C1=CC=CC=C1)C1=CC=C(CN2C(=C(C3=CC=CC=C23)C2=CC=CC=C2)C(=O)O)C=C1 | C28H22N2O2
